US05602101
EXAMPLE 34 EtOCO-D-Cha-Pro-Arg-H.HCl
By methods substantially equivalent to those described in Examples 1-A, 1-B, 7-A, 1-D, 1-H and 1-I, using ethyl chloroformate in place of MeSO2Cl and using Boc-D-Cha-OH in place of Boc-D-Phe-OH, 0.6 g of EtOCO-D-Cha-Pro-Arg-H.HCl hydrate was prepared. EtOCO-D-Cha-Pro-Arg-H.HCl was purified by RPHPLC (95/5 (A/B) ramp to 60/40 (A/B), 240 min).

reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | Boc-D-Cha-OH | N([C@H](CC1CCCCC1)C(=O)O)C(=O)OC(C)(C)C | C14H25NO4
reactant | EtOCO-D-Cha-Pro-Arg-H.HCl hydrate | 0.6 g | C(C)OC(=O)N[C@H](CC1CCCCC1)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C=O)CCC1.Cl.O
product | EtOCO-D-Cha-Pro-Arg-H.HCl | C(C)OC(=O)N[C@H](CC1CCCCC1)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C=O)CCC1.Cl | InChI=1S/C23H40N6O5.ClH/c1-2-34-23(33)28-18(14-16-8-4-3-5-9-16)21(32)29-13-7-11-19(29)20(31)27-17(15-30)10-6-12-26-22(24)25;/h15-19H,2-14H2,1H3,(H,27,31)(H,28,33)(H4,24,25,26);1H/t17-,18+,19-;/m0./s1
